US07683060B2
Step 2. N-(pyridin-2-ylmethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide
A mixture of 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid (10 mg, 0.00002 mol), 2-pyridinemethanamine (2.9 mg, 0.000027 mol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (12 mg, 0.000027 mol), N,N-diisopropylethylamine (11 μL, 0.000061 mol) in DMF (0.4 mL) was stirred at RT for 2 h. The mixture was diluted with methanol and purified by RP-HPLC (pH=10) to afford the desired product. Analytical LCMS: (M+H)+=499.1.

reactant | 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid | 0.00002 mol, 10 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C23H16N6O2
reactant | 2-pyridinemethanamine | 0.000027 mol, 2.9 mg | N1=C(C=CC=C1)CN | C6H8N2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000027 mol, 12 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.000061 mol, 11 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | N-(pyridin-2-ylmethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide | N1=C(C=CC=C1)CNC(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O | C29H22N8O
